US04046758
N-(2-bromoethyl)-3-chloro-2,6-dinitro-4-trifluoromethylaniline
The compound was prepared by reacting 2,4-dichloro-3,5-dinitrobenzotrifluoride with 2-bromoethylamine in an ethanol solution. The resultant product melted at 88°-92° C.

reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
reactant | 2-bromoethylamine | BrCCN | C2H6BrN
solvent | ethanol | C(C)O | C2H6O
product | N-(2-bromoethyl)-3-chloro-2,6-dinitro-4-trifluoromethylaniline | BrCCNC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-] | C9H6BrClF3N3O4
